datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[O:34][H:35]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12].[H:13][O:34][H:35],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:20])([H:21])[H:22])=[C:9]([C:10]([H:23])([H:24])[H:25])[c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:7]([C:6]([H:17])([H:18])[H:19])[C:8]([H:20])([H:21])[H:22])([C:10]([H:23])([H:24])[H:25])[c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:3],53.3878
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])[H:7])[H:6],42.2166
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([S:8][H:11])([H:9])[H:10]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7]([S:8][H:11])([H:9])[H:10],33.8904
[C:0]([S:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[H:18]>>[C:0]([H:6])([H:7])[H:8].[S:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[H:18],18.828
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:15][O:14][C:13]([H:16])([H:17])[H:18],42.6768
[C:0]([C:1](=[N:2][H:6])[H:5])([H:3])[H:4].[O:7]>>[C:0](=[C:1]=[N:2][H:6])([H:3])[H:4].[H:5][O:7],0.0
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:12],51.3377
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22]#[C:21][H:26])([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:11],31.5892
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[S:10][H:11]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][S:10][H:11],8.01
[C:0]([C:1]12[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[C:6]2([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])([H:8])[H:9],66.944
[O:0][C:1](=[O:2])[H:3].[O:4][O:5]>>[H:3][O:4][O:5].[O:0]=[C:1]=[O:2],0.0
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11](=[C:10]([H:14])[H:15])[C:12](=[C:13]([H:17])[H:18])[H:16],26.3592
[C:0](=[O:1])([H:2])[H:3].[C:4]#[C:5][H:6]>>[C:0](=[O:1])[H:3].[H:2][C:4]#[C:5][H:6],24.526608
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18])[H:4],1.17152
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:20])([H:21])[H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:18])[H:19])([C:11]([H:20])([H:21])[H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:4],54.3502
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[O:9])([H:3])[H:4],-5.8576
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28])([H:10])[H:11],59.7057
